US07659267B2
Methyl 4-cyano-2-[(trifluoroacetyl)amino]benzoate
Under ice cooling, triethylamine (6.43 mL, 45.5 mmol) and trifluoroacetic anhydride (6.34 mL, 45.5 mmol) were added to a tetrahydrofuran solution (40 mL) of methyl 2-amino-4-(aminocarbonyl)benzoate (4.02 g, 20.7 mmol). The mixture was stirred at the same temperature for 30 minutes. After ice water was added to the reaction mixture, the mixture was extracted twice with ethyl acetate. The combined organic layers were washed with saturated sodium chloride aqueous solution and dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue was applied to silica gel column chromatography (hexane/ethyl acetate=10:1) to give the title compound (5.65 g, quantitative).

reactant | triethylamine | 45.5 mmol, 6.43 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 45.5 mmol, 6.34 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | methyl 2-amino-4-(aminocarbonyl)benzoate | 20.7 mmol, 4.02 g | NC1=C(C(=O)OC)C=CC(=C1)C(=O)N | C9H10N2O3
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | Methyl 4-cyano-2-[(trifluoroacetyl)amino]benzoate | 5.65 g | C(#N)C1=CC(=C(C(=O)OC)C=C1)NC(C(F)(F)F)=O | C11H7F3N2O3
